US04788130
28.3 Grams of 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-benzyl-1H-inden-1-one was dissolved in 350 ml of dimethylformamide, then 5.2 g of 60%-sodium hydride was added thereto at 55°-60° C. and the mixture was stirred for 40 minutes. Next 8 ml of methyl iodide was added thereto, and the whole mixture was heated to the same temperature for 1 hour. Followed by 5.2 g of 60%-sodium hydride was added and stirred for 40 minutes at the same temperature. Next, 8 ml of methyl iodide was further added and heated for 10 minutes at the same temperature. Furthermore, 5.2 g of 60%-sodium hydride was added to the reaction mixture and stirred for 55 minutes at the same temperature, and 8 ml of methyl iodide was added to the reaction mixture and heated to the same temperature for 3 hours and 20 minutes. After the reaction was completed, dimethylformamide was removed under a reduced pressure and the residue obtained was extracted with ethyl acetate. The extract was washed with water and with an aqueous solution saturated with sodium chloride in this order, then the solvent was removed under a reduced pressure to obtain the residue. The residue was purified by means of a silica gel column chromtagraphy (eluent: n-hexane: ethyl acetate) to obtain 23.0 g of 2,3-dihydro-2,4,6-trimethyl-7 -methoxy-2-benzyl-1H-inden-1-one.

reactant | 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-benzyl-1H-inden-1-one | CC1=C2CC(C(C2=C(C(=C1)C)O)=O)CC1=CC=CC=C1 | C18H18O2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 8 ml | CI | CH3I
reactant | methyl iodide | 8 ml | CI | CH3I
reactant | methyl iodide | 8 ml | CI | CH3I
reactant | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-2,4,6-trimethyl-7 -methoxy-2-benzyl-1H-inden-1-one | 23.0 g | CC1(C(C2=C(C(=CC(=C2C1)C)C)OC)=O)CC1=CC=CC=C1 | C20H22O2
